US05254655
To a solution of N-methyl-2-(2-hydroxyethyl)-4-nitrobenzenamine (4.90 g, 0.025 mol) in NMP (15 ml) is added allyl bromide (4.55 g, 0.037 mol) at room temperature. The mixture is heated to 85°-90° C. for 6 hours and cooled to room temperature. The mixture is diluted with 1M sodium carbonate solution (250 ml) and extracted with ether twice (250 and 150 ml portions). The extracts are washed with water twice, dried over potassium carbonate and concentrated to a solid. The solid is purified by chromatography on silica gel with hexane-tetrahydrofuran solvent to give N-allyl-N-methyl-2-(2-hydroxyethyl)-4-nitrobenzenamine.

reactant | N-methyl-2-(2-hydroxyethyl)-4-nitrobenzenamine | 0.025 mol, 4.90 g | CNC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C9H12N2O3
reactant | allyl bromide | 0.037 mol, 4.55 g | C(C=C)Br | C3H5Br
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
solvent | sodium carbonate | 1M, 250 ml | C([O-])([O-])=O.[Na+].[Na+]
product | N-allyl-N-methyl-2-(2-hydroxyethyl)-4-nitrobenzenamine | C(C=C)N(C1=C(C=C(C=C1)[N+](=O)[O-])CCO)C | C12H16N2O3
